US07399775B2
3,6-Dichloro-2-[(4-chlorophenylsulfonyl) (pyridine-4-yl)methyl]pyridine
Triethylamine (208 μl, 1.89 mmol) and thionyl chloride (138 μl, 1.89 mmol) were added to a solution of (3,6-dichloropyridin-2-yl) (pyridin-4-yl)methanol (161 mg, 0.631 mmol) in methylene chloride (10 ml). After stirring at room temperature for 4 hours, the reaction mixture was concentrated under reduced pressure. Ethyl acetate was added to the residue thus obtained. The resulting mixture was washed successively with a saturated aqueous solution of sodium bicarbonate and brine, and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure. The residue thus obtained was dissolved in acetonitrile (10 ml), followed by the addition of 4-chlorobenzenethiol (137 mg, 0.947 mmol) and potassium carbonate (131 mg, 0.947 mmol). Under nitrogen atmosphere, the reaction mixture was stirred at room temperature for 2 days and then at 60° C. for 4 days. The reaction mixture was cooled to room temperature and then, concentrated under reduced pressure. Ethyl acetate was added to the residue thus obtained. The mixture was washed successively with water and brine, dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated under reduced pressure. The residue thus obtained was subjected to flash chromatography. A fraction obtained from the eluate with 40% ethyl acetate/hexane was concentrated under reduced pressure. The residue thus obtained was dissolved in methanol (10 ml) and to the resulting solution, were added a 30% aqueous hydrogen peroxide solution and hexaammonium heptamolybdate tetrahydrate (73 mg). The reaction mixture was stirred at room temperature for 5 hours. Methanol was distilled off under reduced pressure. A saturated aqueous solution of sodium bicarbonate was added to the concentrated solution thus obtained, followed by extraction with methylene chloride. The organic layer was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated under reduced pressure. The residue thus obtained was subjected to flash chromatography. A fraction obtained from the eluate with methanol:methylene chloride (=1:80) was concentrated under reduced pressure, whereby the title compound (49 mg, 0.118 mmol, 19%) was obtained as a white solid.

reactant | Triethylamine | 1.89 mmol, 208 μl | C(C)N(CC)CC | C6H15N
reactant | thionyl chloride | 1.89 mmol, 138 μl | S(=O)(Cl)Cl | Cl2OS
reactant | (3,6-dichloropyridin-2-yl) (pyridin-4-yl)methanol | 0.631 mmol, 161 mg | ClC=1C(=NC(=CC1)Cl)C(O)C1=CC=NC=C1 | C11H8Cl2N2O
reactant | 4-chlorobenzenethiol | 0.947 mmol, 137 mg | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | potassium carbonate | 0.947 mmol, 131 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen peroxide | OO | H2O2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | methanol | 10 ml | CO | CH4O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 3,6-Dichloro-2-[(4-chlorophenylsulfonyl) (pyridine-4-yl)methyl]pyridine | 0.118 mmol, 49 mg, 19% | ClC=1C(=NC(=CC1)Cl)C(C1=CC=NC=C1)S(=O)(=O)C1=CC=C(C=C1)Cl | C17H11Cl3N2O2S
